US05314900
Step 3: 3-Chloro-4-fluorobenzyl alcohol
To a solution of LiAlH4 (2.2 g) in THF (100 mL) at 0° C. under nitrogen was added 3-chloro-4-fluorobenzoic acid (Aldrich; 10 g). After stirring for 1 hour at 0° C. the mixture was stirred for 1 hour at 25° C. followed by the addition of a further 1.0 g of LiAlH4. Stirring was continued for a further 12 hours at 25° C. after which time the mixture was cooled to 0° C. and quenched with H2O. The mixture was then acidified with 1N HCl (aq) and extracted with EtOAc. After washing with NaHCO3 (aq) and drying (MgSO4), the organic solution was evaporated to give the title compound as an oil.

reactant | LiAlH4 | 2.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-chloro-4-fluorobenzoic acid | 10 g | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
reactant | LiAlH4 | 1.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Chloro-4-fluorobenzyl alcohol | ClC=1C=C(CO)C=CC1F | C7H6ClFO
